US08748011B2
Synthesis of 2-(methylthio)-N-phenylaniline
(2-bromophenyl)(methyl)sulfane (25 g, 123 mmol), Pd2dba3 (6.75 g, 7.38 mmol), S-Phos (6.06 g,14.77 mmol) and sodium tert-butoxide (17.74 g, 185 mmol) were placed in a dry 3 neck flask under N2. The reaction mixture was vacuum evacuated and back filled with N2 three times. Aniline (22.93 g, 246 mmol) and 500 mL toluene were added to the reaction mixture. The reaction mixture was refluxed for 18 hours. The crude reaction mixture was run through a silica gel plug and eluted with toluene. The toluene portion was concentrated down and subjected to a silica gel column by using 3-5% DCM in hexanes to yield desired product. (24 g, 111 mmol, 91%)

reactant | (2-bromophenyl)(methyl)sulfane | 123 mmol, 25 g | BrC1=C(C=CC=C1)SC | C7H7BrS
reactant | S-Phos | 14.77 mmol, 6.06 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | sodium tert-butoxide | 185 mmol, 17.74 g | CC(C)([O-])C.[Na+]
reactant | Aniline | 246 mmol, 22.93 g | NC1=CC=CC=C1 | C6H7N
catalyst | Pd2dba3 | 7.38 mmol, 6.75 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(methylthio)-N-phenylaniline | CSC1=C(NC2=CC=CC=C2)C=CC=C1 | C13H13NS
